US07846925B2
Preparation of 5-(1,3-benzodioxol-5-ylmethylene)-2-imino-1,3-thiazolidine-4-one
Following the general method as outlined in Example 1, starting from 1,3-benzodioxol-5-carbaldehyde and 2-imino-1,3-thiazolidin-4-one, the title compound was obtained.

reactant | 1,3-benzodioxol-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
reactant | 2-imino-1,3-thiazolidin-4-one | N=C1SCC(N1)=O | C3H4N2OS
product | 5-(1,3-benzodioxol-5-ylmethylene)-2-imino-1,3-thiazolidine-4-one | O1COC2=C1C=CC(=C2)C=C2C(NC(S2)=N)=O | C11H8N2O3S
